US04760075
A reaction mixture, prepared from 1-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-1-methylthio-2-nitroethylene, cyclopropylamine and ethanol, was heated to refluxing temperature for about three hours. The solvent was then removed by evaporation and the resulting residue was chromatographed over silica using a gradient elution technique. The desired compound was eluted with a 5:95 methanol:ethyl acetate solvent mixture. Removal of the solvent yielded N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-cyclopropyl 2-nitro-1,1-ethenediamine which melted at 128.5°-131.5° C. after recrystallization from a methanol/ethyl acetate solvent mixture.

reactant | 1-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-1-methylthio-2-nitroethylene | CN(C)CC=1SC=C(N1)CSCCNC(=C[N+](=O)[O-])SC | C12H20N4O2S3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | ethanol | C(C)O | C2H6O
product | N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-cyclopropyl 2-nitro-1,1-ethenediamine | CN(C)CC=1SC=C(N1)CSCCNC(=C[N+](=O)[O-])NC1CC1 | C14H23N5O2S2
